US05387685
4-[6-Bromo-1-[(4-methylphenyl)thio]hexyl]-1,2-dimethoxybenzene
A solution of 13.72 g of 1,2-dimethoxy-4-[[(4-methylphenyl)thio]methyl]benzene in 200 mL of tetrahydrofuran (dried over 3A sieves), under nitrogen, is cooled to -78° C. and 30 mL of 1.7M t-butyl lithium is added. After 30 minutes, the solution is transferred, via a canula, into a stirred solution of 14.0 mL of 1,5-dibromopentane in 25 ml of tetrahydrofuran, under nitrogen at -78° C. The reaction is slowly warmed to room temperature, and the reaction is quenched by the addition of 4 mL of acetone. The reaction is concentrated in vacuo and the residual material is dissolved in ethyl acetate and is washed with brine. Drying (sodium sulfate) and solvent removal affords 33.22 g of oil. The residue is purified via chromatography on silica gel with gradient elution progressing from hexane to chloroform to methyl alcohol to afford 10.82 g of the desired product as a tan gum.

reactant | 1,2-dimethoxy-4-[[(4-methylphenyl)thio]methyl]benzene | 13.72 g | COC1=C(C=C(C=C1)CSC1=CC=C(C=C1)C)OC | C16H18O2S
reactant | t-butyl lithium | 1.7M, 30 mL | C(C)(C)(C)[Li]
reactant | 1,5-dibromopentane | 14.0 mL | BrCCCCCBr | C5H10Br2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-[6-Bromo-1-[(4-methylphenyl)thio]hexyl]-1,2-dimethoxybenzene | 33.22 g | BrCCCCCC(SC1=CC=C(C=C1)C)C1=CC(=C(C=C1)OC)OC | C21H27BrO2S
